US05866576
To a suspension of sodium theobromine (4.05 g, 20.0 mmol) in dimethylsulfoxide (50 mL) was added 1-methanesulfonyl-4-(S)-methyl-8-methylnon-7-ene and the reaction stirred for 16 hours at 60° C. The mixture was then poured into water (100 mL) and extracted with ethyl acetate (100 mL, 2×50 mL). The organic portions were combined, dried using magnesium sulfate, and evaporated to give a residue which was purified by column chromatography (ethyl acetate/hexane) to yield 1.83 g (30% yield) 1-(4-(S)-Methyl-8-methylnon-7-enyl)-3,7-dimethylxanthine (inventive compound no. 2536S) as a white solid.

reactant | sodium theobromine | 20.0 mmol, 4.05 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O.[Na]
reactant | 1-methanesulfonyl-4-(S)-methyl-8-methylnon-7-ene | CS(=O)(=O)CCC[C@H](CCC=C(C)C)C | C12H24O2S
reactant | water | 100 mL | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 1-(4-(S)-Methyl-8-methylnon-7-enyl)-3,7-dimethylxanthine | 1.83 g, 30% yield | C[C@H](CCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CCC=C(C)C | C18H28N4O2
